US09193139B2
1,1′-(cyclohexane-1,3-diylbis(methylene))bis(1H-pyrrole-2,5-dione) (denoted M2)
The general procedure was carried out using maleic anhydride (20.59 g, 210 mmol), 1,3-cyclohexanebis(methylamine) (14.22 g, 100 mmol), sodium acetate (1.64 g, 20 mmol), and acetic anhydride (22.46 g, 220 mmol). The resulting compound was purified by column chromatography (98:2 DCM:EtOAc), and the product obtained as a white solid (3.55 g/12%).

reactant | maleic anhydride | 210 mmol, 20.59 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1,3-cyclohexanebis(methylamine) | 100 mmol, 14.22 g | C1(CC(CCC1)CN)CN | C8H18N2
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 220 mmol, 22.46 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1,1′-(cyclohexane-1,3-diylbis(methylene))bis(1H-pyrrole-2,5-dione) | C1(CC(CCC1)CN1C(C=CC1=O)=O)CN1C(C=CC1=O)=O | C16H18N2O4
